US05968908
To a stirred (-78° C.) solution of 4.2 g of 2-bromo-3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene in 40 ml of tetrahydrofuran is added 18 ml of tert-butyllithium (1.7N in pentane). The reaction mixture is stirred at -78° C. for 1 hour, warmed to room temperature and stirred for 1 hour. Thirty ml of 0.5M zinc chloride solution in tetrahydrofuran is added and the stirring continued for 1 hour. Three grams of 2-trifluoromethanesulfonyloxycyclohexen-1-ylcarboxylate and 0.8 g of tetrakis(triphenylphosphine palladium(O) in tetrahydrofuran is added and the reaction mixture is heated at reflux temperature for 3 hours. Following the reaction work-up of Example 1, 2.75 g of 2-(3,5,5,8,8-pentamethyl-5,6,7,8,-tetrahydro-2-naphthalenyl)-1-cyclohexene-1-carboxylic acid ethyl ester is obtained. The above isolated ester is reduced to the corresponding alcohol with lithium aluminum hydride in diethyl ether, and this is then converted to the triphenylphosphonium bromide as in Example 1. Reaction of the bromide with ethyl 3-methyl-4-oxocrotonate and sodium ethoxide in methylene chloride, as in Example 1, gives the title compound as a mixture of E,E- and Z,E- esters in a 8:1 ratio. The esters are separated into the individual isomers by chromatography.

reactant | 2-bromo-3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene | 4.2 g | BrC1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C15H21Br
reactant | tert-butyllithium | 1.7N, 18 ml | C(C)(C)(C)[Li]
reactant | 2-trifluoromethanesulfonyloxycyclohexen-1-ylcarboxylate | Three grams | FC(S(=O)(=O)OC1=C(CCCC1)C(=O)[O-])(F)F
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | 0.5M, Thirty ml | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis | 0.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3,5,5,8,8-pentamethyl-5,6,7,8,-tetrahydro-2-naphthalenyl)-1-cyclohexene-1-carboxylic acid ethyl ester | 2.75 g | C(C)OC(=O)C1=C(CCCC1)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C24H34O2
